US07875605B2
1-[[5-Bromo-1-(4-methylbenzenesulfonyl)-indol-3-yl]methyl][1,4]diazepane
Using essentially the same procedure as described in example 127, 5-Bromo-1-(4-methylbenzenesulfonyl)-3-chloromethyl-1H-indole was reacted with homopiperazine to obtain the above derivative.

reactant | 5-Bromo-1-(4-methylbenzenesulfonyl)-3-chloromethyl-1H-indole | BrC=1C=C2C(=CN(C2=CC1)S(=O)(=O)C1=CC=C(C=C1)C)CCl | C16H13BrClNO2S
reactant | homopiperazine | N1CCNCCC1 | C5H12N2
product | 1-[[5-Bromo-1-(4-methylbenzenesulfonyl)-indol-3-yl]methyl][1,4]diazepane | BrC=1C=C2C(=CN(C2=CC1)S(=O)(=O)C1=CC=C(C=C1)C)CN1CCNCCC1 | C21H24BrN3O2S
